US08541588B2
(2E)-3-(Dimethylamino)-1-[2-hydroxy-5-(trifluoromethyl)phenyl]prop-2-en-1-one
1-[2-Hydroxy-5-(trifluoromethyl)phenyl]ethanone, (Preparation 860, 7.0 g, 0.0343 mol) was taken in dimethylformamide dimethylacetal (18.2 mL, 0.137 mol) at room temperature and then heated at 110° C. for 30 min. The reaction mixture was concentrated in vacuo and the crude product was crystallised from 2-propanol to give the title compound as bright yellow solid (6.4 g).

reactant | 1-[2-Hydroxy-5-(trifluoromethyl)phenyl]ethanone | OC1=C(C=C(C=C1)C(F)(F)F)C(C)=O | C9H7F3O2
reactant | dimethylformamide dimethylacetal | 0.137 mol, 18.2 mL | COC(N(C)C)OC | C5H13NO2
product | (2E)-3-(Dimethylamino)-1-[2-hydroxy-5-(trifluoromethyl)phenyl]prop-2-en-1-one | 6.4 g | CN(/C=C/C(=O)C1=C(C=CC(=C1)C(F)(F)F)O)C | C12H12F3NO2
